US06982260B1
8-Cyclopentyl-7-methoxy-1H-quinazolin-2-one
To a solution of 2-amino-8-cyclopentyl-7-methoxyquinazoline (1.38 g,) in tetrafluoroboric acid (30 mL), sodium nitrite solution (1.16 g in 10 mL of water) was added dropwise at 0° C. The reaction mixture was stirred at 0° C. for 1 hour and at room temperature for 18 hours. The reaction mixture was cooled in a ice bath and neutralized with 30% ammonia solution. The product was extracted with ethyl acetate (3×50 mL), combined organic extract was washed with brine and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure to give the title compound as a orange solid (1.0 g, 73%). mp 201–204° C.; 1H NMR (CDCl3): δ 1.7–2.0 (complex, 8H, 4×CH2), 3.43 (m, 1H, CH), 3.96 (s, 3H, OCH3), 6.89 (d, 1H, Ar-H, J=8.8 Hz), 7.59 (d, 1H, Ar-H, J=8.8 Hz), 8.92 (brs, 1H, NH), 9.03 (s, 1H, Ar-H).

reactant | 2-amino-8-cyclopentyl-7-methoxyquinazoline | 1.38 g | NC1=NC2=C(C(=CC=C2C=N1)OC)C1CCCC1 | C14H17N3O
reactant | sodium nitrite | 10 mL, 1.16 g | N(=O)[O-].[Na+]
reactant | ammonia | N | H3N
solvent | tetrafluoroboric acid | 30 mL | F[B-](F)(F)F.[H+]
product | 8-Cyclopentyl-7-methoxy-1H-quinazolin-2-one | 1.0 g, 73% | C1(CCCC1)C=1C(=CC=C2C=NC(NC12)=O)OC | C14H16N2O2
